US07981903B2
A slurry of 5-(methyloxy)-1-[(methyloxy)acetyl]-6-nitro-2,3-dihydro-1H-indole (3.96 g, 14.87 mmol) and NiCl2 6H2O (1.061 g, 4.46 mmol) in THF (50 mL) and MeOH (100 mL) was treated with NaBH4 (1.69 g, 44.6 mmol) in small portions. After 5 minutes the reaction mixture was concentrated onto Celite and purified by silica gel chromatography using THF. The crude product was triturated using CH2Cl2 and Et2O to obtain 5-(methyloxy)-1-[(methyloxy)acetyl]-2,3-dihydro-1H-indol-6-amine as a white solid (884 mg, 25%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.98 (t, J=8.24 Hz, 2H), 3.34 (s, 3H), 3.71 (s, 3H), 3.93 (t, J=8.,33 Hz 2H), 4.12 (s, 2H), 4.67 s, 2H), 6.71 (s, 1H), 7.54 (s, 1H); ESIMS (M+H)+=237.4.

reactant | 5-(methyloxy)-1-[(methyloxy)acetyl]-6-nitro-2,3-dihydro-1H-indole | 14.87 mmol, 3.96 g | COC=1C=C2CCN(C2=CC1[N+](=O)[O-])C(COC)=O | C12H14N2O5
reactant | MeOH | 100 mL | CO | CH4O
reactant | NaBH4 | 44.6 mmol, 1.69 g | [BH4-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | NiCl2 | Cl[Ni]Cl
product | 5-(methyloxy)-1-[(methyloxy)acetyl]-2,3-dihydro-1H-indol-6-amine | 884 mg, 25% | COC=1C=C2CCN(C2=CC1N)C(COC)=O | C12H16N2O3
